US09359375B2
A solution of 2-bromo-4,5-difluorobenzonitrile (218 mg, 1.00 mmol), D-phenylalanine amide (185 mg, 1.12 mmol) and DIEA (0.600 mL, 3.45 mmol) in DMSO (3 mL) was stirred at 120 C for 18 h. Water and EtOAc were added. The organic phase was separated, washed with water, dried over Na2SO4, concentrated in vacuo to give (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-phenylpropanamide (362 mg).

reactant | 2-bromo-4,5-difluorobenzonitrile | 1.00 mmol, 218 mg | BrC1=C(C#N)C=C(C(=C1)F)F | C7H2BrF2N
reactant | D-phenylalanine amide | 1.12 mmol, 185 mg | N[C@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
reactant | DIEA | 3.45 mmol, 0.600 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-phenylpropanamide | 362 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)CC1=CC=CC=C1)F)C#N | C16H13BrFN3O
